data/mechanisms/records/IMS8-EQT8.2k.json
{"mechanism_id": "IMS8-EQT8.2k", "species": [{"species_id": "protonated_diaminobutane", "mapped_smiles": "[NH2:1][CH2:2][CH2:3][CH2:4][CH2:5][NH3+:6]", "role": "precursor_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "pyrrolidinium", "mapped_smiles": "[NH2+:1]1[CH2:2][CH2:3][CH2:4][CH2:5]1", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "ammonia", "mapped_smiles": "[NH3:6]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["protonated_diaminobutane"]}, {"state_id": "state_products", "species_ids": ["pyrrolidinium", "ammonia"]}], "steps": [{"step_id": "step_displacement", "from_state": "state_precursor", "to_state": "state_products", "step_class": "displacement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "lone_pair", "atom_maps": [1]}, "target": {"type": "bond", "atom_maps": [1, 5]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [5, 6]}, "target": {"type": "lone_pair", "atom_maps": [6]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_displacement", "support_type": "textbook_proposed", "locator": {"page": 167, "equation": "Table 8.2", "figure": null, "panel": null, "section": "8.3 (One bond cleaved, cont'd; ring-forming displacement 'rd')"}, "confidence": 0.85, "curator_note": "Table 8.2 (p.167, first row, continuation of the One-bond-cleaved 'rd' section): EE+ ring-forming displacement. Book draws 2 arcs (both drawn): the neutral amine N lone pair forms the new N1-C5 bond, and the C5-N6 bond departs with NH3. Even-electron intramolecular SN2 of the protonated 1,4-diaminobutane cation; charge retained on the pyrrolidinium ring. Both encoded as 2-electron moves (lone-pair->bond gives a soft lone-pair advisory in the arrow check). Concrete example as printed; no m/z / intensity given -- m/z are curator-computed monoisotopic values for this instantiation."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": null, "activation_method": null, "collision_energy": null, "electron_energy_ev": null, "precursor_mz": 89.1073, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_pyrrolidinium", "species_id": "pyrrolidinium", "step_id": "step_displacement", "observed_mz": 72.0808, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-26T00:00:00Z", "modified_at": "2026-07-26T00:00:00Z"}}
